US08133995B2
1-{4-[4-amino-6-(methoxymethyl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-5-yl]-2-fluorophenyl}-3-[2-fluoro-5-(trifluoromethyl)phenyl]urea
To a flask charged with tert-butyl 4-{4-amino-5-[3-fluoro-4-({[2-fluoro-5-(trifluoromethyl)phenyl]carbamoyl}amino)phenyl]-6-(methoxymethyl)pyrrolo[2,1-f][1,2,4]triazin-7-yl}piperidine-1-carboxylate was added methylene chloride (12.5 mL). To this suspension was added 12.5 mL of trifluoroacetic acid. The homogeneous solution was allowed to stir at rt under nitrogen for 17 hours. The reaction mixture was concentrated and the residue dissolved in EtOAc. The organic phase was washed with saturated sodium bicarbonate solution (2×), brine (1×), separated and the organic layer dried (Na2SO4). The organic layer was filtered, concentrated and left under vacuum overnight to yield the title compound (150 mg, 70.4% yield). 1H-NMR (DMSO-d6) MS [M+H]+=576; LCMS RT=2.51 min.

reactant | tert-butyl 4-{4-amino-5-[3-fluoro-4-({[2-fluoro-5-(trifluoromethyl)phenyl]carbamoyl}amino)phenyl]-6-(methoxymethyl)pyrrolo[2,1-f][1,2,4]triazin-7-yl}piperidine-1-carboxylate | NC1=NC=NN2C1=C(C(=C2C2CCN(CC2)C(=O)OC(C)(C)C)COC)C2=CC(=C(C=C2)NC(NC2=C(C=CC(=C2)C(F)(F)F)F)=O)F | C32H34F5N7O4
reactant | trifluoroacetic acid | 12.5 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 12.5 mL | C(Cl)Cl | CH2Cl2
product | 1-{4-[4-amino-6-(methoxymethyl)-7-piperidin-4-ylpyrrolo[2,1-f][1,2,4]triazin-5-yl]-2-fluorophenyl}-3-[2-fluoro-5-(trifluoromethyl)phenyl]urea | 150 mg, 70.4% yield | NC1=NC=NN2C1=C(C(=C2C2CCNCC2)COC)C2=CC(=C(C=C2)NC(=O)NC2=C(C=CC(=C2)C(F)(F)F)F)F | C27H26F5N7O2
